US09328106B2
Intermediate 139 cyclopropyl(3,5-difluorophenyl)methanol
A solution of 3,5-difluorobenzaldehyde (1.0 g, 7.0 mmol) was dissolved in tetrahydrofuran (10 mL) was cooled in an ice bath. cyclopropylmagnesium bromide (0.5 M in THF, 1.2 equiv., 8.4 mmol) was added slowly and the mixture was stirred at 0° C. for 60 min. The reaction was quenched with sat. ammonium chloride and extracted twice with EtOAc. The combined organic extracts were dried over Na2SO4, filtered and concentrated to give the title compound of sufficient purity to be used directly.

reactant | 3,5-difluorobenzaldehyde | 7.0 mmol, 1.0 g | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
reactant | cyclopropylmagnesium bromide | 8.4 mmol, 0.5 M, 1.2 equiv. | C1(CC1)[Mg]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | cyclopropyl(3,5-difluorophenyl)methanol | C1(CC1)C(O)C1=CC(=CC(=C1)F)F | C10H10F2O
